US08114887B2
A solution of 0.2 g (0.56 mmol) ethyl 1-benzyl-4-[(3-fluorophenyl)amino]piperidine-4-carboxylate in 2.6 mL (28 mmol) acetic anhydride (neat) was heated to 120° C. for 20 hr, then poured into 50 mL of a 1:1 mixture of water and concentrated NH4OH, extracted with 100 mL EtOAc, washed with water then brine, dried over MgSO4, filtered, and concentrated. Purification by automated flash chromatography (40 g silica gel cartridge 0-5% MeOH/CH2Cl2) over 15 min) afforded ethyl 4-[acetyl(3-fluorophenyl)amino]-1-benzylpiperidine-4-carboxylate. 1H NMR (CDCl3, 400 MHz) δ 7.39 (m, 1H); 7.20-7.31 (m, 4H); 7.06-7.15 (m, 4H); 4.25 (q, J=7.14 Hz, 2H); 3.46 (s, 2H); 2.59 (br m, 2H); 2.30-2.48 (m, 3H); 2.22 (m, 2H); 1.72 (s, 3H) 1.63 (m, 2H); 1.31 (t, J=7.15, 3H). Electrospray mass spectrum M+H=399.2

reactant | ethyl 1-benzyl-4-[(3-fluorophenyl)amino]piperidine-4-carboxylate | 0.56 mmol, 0.2 g | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)OCC)NC1=CC(=CC=C1)F | C21H25FN2O2
reactant | acetic anhydride | 28 mmol, 2.6 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | NH4OH | [NH4+].[OH-]
solvent | water | O | H2O
product | ethyl 4-[acetyl(3-fluorophenyl)amino]-1-benzylpiperidine-4-carboxylate | C(C)(=O)N(C1(CCN(CC1)CC1=CC=CC=C1)C(=O)OCC)C1=CC(=CC=C1)F | C23H27FN2O3
